US05134147
2-Iodomethyl-4-oxo-4H-chromene
8 g of 2-methylthiomethyl-4-oxo-4H-chromene, 200 ml of methyl iodide and 26 ml of dichloromethane are brought to reflux with stirring for 4 days. The precipitate is filtered off, the excess solvents and reagents are evaporated off, the residue is taken up with ethyl ether and the organic phase is washed with sodium thiosulfate solution, dried and evaporated.

reactant | 2-methylthiomethyl-4-oxo-4H-chromene | 8 g | CSCC=1OC2=CC=CC=C2C(C1)=O | C11H10O2S
reactant | methyl iodide | 200 ml | CI | CH3I
solvent | dichloromethane | 26 ml | ClCCl | CH2Cl2
product | 2-Iodomethyl-4-oxo-4H-chromene | ICC=1OC2=CC=CC=C2C(C1)=O | C10H7IO2
